US06897331B2
Diiodomethane(120 μl, 1.5 mmol) was added slowly to perfluorohexanes (FC-72, 3 mL) in a test tube (14 mm×105 mm) and then trimethylsiloxycyclohexene (180 mg, 1.05 mmol) in hexane (3.5 mL) was slowly poured into the test tube. A hexane solution of diethylzinc (1.0 M, 1.5 mmol, 1.5 mmol) was added to the hexane layer, and the diiodomethane layer on the bottom was stirred gently so as not to mix the three phases. After 10 h at room temperature, additional diidomethane (40 μl, 0.5 mmol) was added to the bottom layer of the test tube by using a syringe. After 14 h, the reaction mixture was cooled to 0° C., and saturated NH4Cl (10 mL) was added. The hexane layer was decanted, washed with H2O, dried over MgSO4, and concentrated in vacuo. The residue was purified by short column chromatography (17 mm×20 mm of florisil layer over 50 mm of silica gel layer) with benzene/hexane: ¼ to give 1-trimethylsiloxybicyclo[4.1.0]heptane in 63% yield (123 mg).

reactant | Diiodomethane | 1.5 mmol, 120 μl | ICI | CH2I2
reactant | trimethylsiloxycyclohexene | 1.05 mmol, 180 mg | C[Si](OC1=CCCCC1)(C)C | C9H18OSi
reactant | diethylzinc | 1.5 mmol, 1.0 M | C(C)[Zn]CC
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | hexane | 3.5 mL | CCCCCC | C6H14
product | 1-trimethylsiloxybicyclo[4.1.0]heptane | 63% yield | C[Si](OC12CCCCC2C1)(C)C | C10H20OSi
